US06211216B1
1.23 g (3.4 mmol) of methyl 2-chloro-3-(5-methoxymethylisoxazol-3-yl)-4-methylsulfonylbenzoate are dissolved in 30 ml of tetrahydrofuran/20 ml of water and treated with 0.15 g (3.8 mmol) of sodium hydroxide. After stirring at room temperature for 18 hours, the reaction mixture is concentrated, adjusted to pH 2 using 2N hydrochloric acid and extracted with dichloromethane. 1.05 g (94.8% of theory) of 2-chloro-3-(5-methoxymethylisoxazol-3-yl)-4-methylsulfonylbenzoic acid are obtained as a yellowish oil.

reactant | methyl 2-chloro-3-(5-methoxymethylisoxazol-3-yl)-4-methylsulfonylbenzoate | 3.4 mmol, 1.23 g | ClC1=C(C(=O)OC)C=CC(=C1C1=NOC(=C1)COC)S(=O)(=O)C | C14H14ClNO6S
reactant | sodium hydroxide | 3.8 mmol, 0.15 g | [OH-].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-chloro-3-(5-methoxymethylisoxazol-3-yl)-4-methylsulfonylbenzoic acid | 1.05 g, 94.8% | ClC1=C(C(=O)O)C=CC(=C1C1=NOC(=C1)COC)S(=O)(=O)C | C13H12ClNO6S
